US06610846B1
A solution of 2-[3-cyclopentyl-2-(4-methanesulfonyl-phenyl)-propionylamino]-thiazole-5-carboxylic acid ethyl ester (430 mg, 0.95 mmol) in ethanol (10 mL) and water (2 mL) was treated with lithium hydroxide (46 mg, 1.9 mmol). The reaction mixture was stirred at 25° C. for 14 h. The reaction mixture was then concentrated in vacuo to remove methanol. The resulting aqueous residue was diluted with water (20 mL) and then washed ethyl acetate (1×20 mL). The aqueous layer was then acidified to pH=2 with a 10% aqueous hydrochloric acid solution and then extracted with ethyl acetate (3×40 mL). The combined organic layers were then dried over magnesium sulfate, filtered, and concentrated in vacuo to afford 2-[3-cyclopentyl-2-(4-methanesulfonyl-phenyl)-propionylamino]-thiazole-5-carboxylic acid (386 mg, 96%) as a white solid which was used without further purification: mp 172-176° C.

reactant | 2-[3-cyclopentyl-2-(4-methanesulfonyl-phenyl)-propionylamino]-thiazole-5-carboxylic acid ethyl ester | 0.95 mmol, 430 mg | C(C)OC(=O)C1=CN=C(S1)NC(C(CC1CCCC1)C1=CC=C(C=C1)S(=O)(=O)C)=O | C21H26N2O5S2
reactant | lithium hydroxide | 1.9 mmol, 46 mg | [OH-].[Li+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | water | 2 mL | O | H2O
product | 2-[3-cyclopentyl-2-(4-methanesulfonyl-phenyl)-propionylamino]-thiazole-5-carboxylic acid | 386 mg, 96% | C1(CCCC1)CC(C(=O)NC=1SC(=CN1)C(=O)O)C1=CC=C(C=C1)S(=O)(=O)C | C19H22N2O5S2
